US04246268
When in the procedure of Example 19, 4-bromo-1-naphthyl 4-piperidyl ketone hydrochloride is substituted for 2-naphthyl 4-piperidyl ketone hydrochloride and 3-chloro-1-(4-chlorophenyl)-1-propanone substituted for 4-chloro-1-phenyl-1-butanone, 3-[4-(4-bromo-1-naphthoyl)-1-piperidyl]-1-(4-chlorophenyl)-1-propanone hydrochloride is produced.

reactant | 4-bromo-1-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC=C(C2=CC=CC=C12)Br
reactant | 2-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC2=CC=CC=C2C=C1
reactant | 3-chloro-1-(4-chlorophenyl)-1-propanone | ClCCC(=O)C1=CC=C(C=C1)Cl | C9H8Cl2O
reactant | 4-chloro-1-phenyl-1-butanone | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
product | 3-[4-(4-bromo-1-naphthoyl)-1-piperidyl]-1-(4-chlorophenyl)-1-propanone hydrochloride | Cl.BrC1=CC=C(C2=CC=CC=C12)C(=O)C1CCN(CC1)CCC(=O)C1=CC=C(C=C1)Cl | InChI=1S/C25H23BrClNO2.ClH/c26-23-10-9-22(20-3-1-2-4-21(20)23)25(30)18-11-14-28(15-12-18)16-13-24(29)17-5-7-19(27)8-6-17;/h1-10,18H,11-16H2;1H
